### PR TITLE
feat: add kernel.fst' and API

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add the definition for kernel.fst', that is given `(κ : kernel (α × β)  γ)`, we take the kernel given by fixing an element of `β`. Analogously define kernel.snd'.
Add some API lemmas.

### CODE REVIEW

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 1]
```diff
@@ -0,0 +1,130 @@
...
+variable {δ : Type*} {mδ : MeasurableSpace δ}
+
+
+--TODO: PR this to mathlib, a suitable place may be just under the following lemma
+#check ProbabilityTheory.kernel.snd_swapRight
+
+--I try to reproduce the code that is already there for kernel.fst and kernel.snd, but in this case the fst and snd are referred to the domain of the kernel, not the codomain
+--for now I will use the names fst' and snd', maybe there are better ones
+
+/-- Define a `kernel α γ` from a `kernel (α × β) γ` by taking the comap of TODO:what is this function called?. -/
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
/-- Define a `kernel α γ` from a `kernel (α × β) γ` by taking the comap of `fun a ↦ (a, b)` for
a given `b : β`. -/
```

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 2]
```diff
@@ -0,0 +1,130 @@
...
+noncomputable def fst' (κ : kernel (α × β)  γ) (b : β) : kernel α γ :=
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
noncomputable def fst' (κ : kernel (α × β) γ) (b : β) : kernel α γ :=
```
You have the same unnecessary space in every other statement.

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 3]
```diff
@@ -0,0 +1,130 @@
...
+instance IsFiniteKernel.fst' (κ : kernel (α × β)  γ) (b : β) [IsFiniteKernel κ] :
+    IsFiniteKernel (fst' κ b) := by
+  rw [kernel.fst']; infer_instance
+
+instance IsSFiniteKernel.fst' (κ : kernel (α × β)  γ) (b : β) [IsSFiniteKernel κ] :
+    IsSFiniteKernel (fst' κ b) := by
+  rw [kernel.fst']; infer_instance
+
+instance (priority := 100) isMarkovKernel_of_isMarkovKernel_fst' {κ : kernel (α × β)  γ}
+    [h : ∀ b, IsMarkovKernel (fst' κ b)] :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]: I was reminded recently that there is no need to name instances in general:
```suggestion
instance (priority := 100) {κ : kernel (α × β) γ} [∀ b, IsMarkovKernel (fst' κ b)] :
```
Also you did not use the name `h`, so no need for that either.

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 4]
```diff
@@ -0,0 +1,130 @@
...
+#check ProbabilityTheory.kernel.snd_swapRight
+
+--I try to reproduce the code that is already there for kernel.fst and kernel.snd, but in this case the fst and snd are referred to the domain of the kernel, not the codomain
+--for now I will use the names fst' and snd', maybe there are better ones
+
+/-- Define a `kernel α γ` from a `kernel (α × β) γ` by taking the comap of TODO:what is this function called?. -/
+noncomputable def fst' (κ : kernel (α × β)  γ) (b : β) : kernel α γ :=
+  comap κ (fun a ↦ (a, b)) (measurable_id.prod_mk measurable_const)
+
+theorem fst'_apply (κ : kernel (α × β)  γ) (b : β) (a : α) : fst' κ b a = κ (a, b) := rfl
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
@[simp]
theorem fst'_apply (κ : kernel (α × β) γ) (b : β) (a : α) : fst' κ b a = κ (a, b) := rfl
```
I don't see a case where we would want to keep `fst'`.

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 5]
```diff
@@ -0,0 +1,130 @@
...
+
+@[simp]
+lemma fst'_prodMkLeft (α : Type*) [MeasurableSpace α] (κ : kernel β γ) (a : α) {b : β} :
+    fst' (prodMkLeft α κ) b a = κ b := rfl
+
+@[simp]
+lemma fst'_prodMkRight (β : Type*) [MeasurableSpace β] (κ : kernel α γ) (b : β) :
+    fst' (prodMkRight β κ) b = κ := rfl
+
+/-- Define a `kernel β γ` from a `kernel (α × β) γ` by taking the comap of TODO:what is this function called?. -/
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
/-- Define a `kernel β γ` from a `kernel (α × β) γ` by taking the comap of `fun b ↦ (a, b)` for
a given `a : α`. -/
```
That function is also called `Prod.mk` but I think writing it like the above is more explicit.

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 6]
```diff
@@ -0,0 +1,130 @@
...
+instance IsFiniteKernel.snd' (κ : kernel (α × β)  γ) (a : α) [IsFiniteKernel κ] :
+    IsFiniteKernel (snd' κ a) := by
+  rw [kernel.snd']; infer_instance
+
+instance IsSFiniteKernel.snd' (κ : kernel (α × β)  γ) (a : α) [IsSFiniteKernel κ] :
+    IsSFiniteKernel (snd' κ a) := by
+  rw [kernel.snd']; infer_instance
+
+instance (priority := 100) isMarkovKernel_of_isMarkovKernel_snd' {κ : kernel (α × β)  γ}
+    [h : ∀ b, IsMarkovKernel (snd' κ b)] :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
instance (priority := 100) {κ : kernel (α × β) γ} [∀ b, IsMarkovKernel (snd' κ b)] :
```

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 7]
```diff
@@ -0,0 +1,130 @@
...
+
+@[simp]
+lemma snd'_prodMkLeft (α : Type*) [MeasurableSpace α] (κ : kernel β γ) (a : α) :
+    snd' (prodMkLeft α κ) a = κ := rfl
+
+@[simp]
+lemma snd'_prodMkRight (β : Type*) [MeasurableSpace β] (κ : kernel α γ) (b : β) {a : α} :
+    snd' (prodMkRight β κ) a b = κ a := rfl
+
+
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
```

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 8]
```diff
@@ -0,0 +1,130 @@
...
+@[simp]
+lemma fst'_swapRight (κ : kernel (α × β)  γ) : fst' (swapLeft κ) = snd' κ := rfl
+
+@[simp]
+lemma snd'_swapRight (κ : kernel (α × β)  γ) : snd' (swapLeft κ) = fst' κ := rfl
+
+end FstSnd
+
+--this may be put in a different place than the rest, maybe still in the same file, also find a better name
+lemma compProd_apply_eq_compProd_snd' (κ : kernel α β) (η : kernel (α × β) γ) [IsSFiniteKernel κ] [IsSFiniteKernel η] (a : α) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
lemma compProd_apply_eq_compProd_snd' (κ : kernel α β) (η : kernel (α × β) γ)
    [IsSFiniteKernel κ] [IsSFiniteKernel η] (a : α) :
```

**Review by RemyDegenne — COMMENTED** [review]
I am not really a fan of the names `fst'` and `snd'`, but I don't have a better idea for now so let's keep them.

File: TestingLowerBounds/ForMathlib/KernelFstSnd.lean [hunk 9]
```diff
@@ -0,0 +1,124 @@
...
+
+namespace ProbabilityTheory
+
+namespace kernel
+
+variable {α β ι : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
+
+variable {γ : Type*} {mγ : MeasurableSpace γ}
+
+open scoped ProbabilityTheory
```
Comment (RemyDegenne) [inline TestingLowerBounds/ForMathlib/KernelFstSnd.lean]:
```suggestion
open scoped ENNReal ProbabilityTheory

namespace ProbabilityTheory

namespace kernel

variable {α β γ ι : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace β}
  {mγ : MeasurableSpace γ}
```

**Review by RemyDegenne — APPROVED** [review]
